US04352933
A solution of 13.25 ml (0.0581 m) of 25% sodium methoxide in methanol was added dropwise to a mixture of 20 g (0.063 m) of 2-chloro-4-benzyloxy-5-[(6-methyl-3-pyridinyl)-methyl]-pyrimidine prepared as in Example 3 and 250 ml of toluene. The mixture is allowed to stir overnight at room temperature then washed with water and evaporated. The residual oil which was 2-methoxy-4-benzyloxy-5-[(6-methyl-3-pyridinyl)-methyl]-pyrimidine was dissolved in ethanol and hydrogenated over 0.6 g of 10% palladium on charcoal. After hydrogen absorption, the reaction mixture was filtered, concentrated to an oil which was taken up in methylene dichloride. Ether was added to give 8.4 g (59%) of 2-methoxy-5-[(6-methyl-3-pyridinyl)-methyl]-4-(1H)-pyrimidinone, m.p. 145°-147°.

reactant | sodium methoxide | 13.25 ml | C[O-].[Na+]
reactant | 2-chloro-4-benzyloxy-5-[(6-methyl-3-pyridinyl)-methyl]-pyrimidine | 20 g | ClC1=NC=C(C(=N1)OCC1=CC=CC=C1)CC=1C=NC(=CC1)C | C18H16ClN3O
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | 2-methoxy-5-[(6-methyl-3-pyridinyl)-methyl]-4-(1H)-pyrimidinone | 8.4 g, 59% | COC=1NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C12H13N3O2
